US06359134B1
To 1-formyl-4-(2-naphthalenesulfonyl)piperazine was added ethanol (30 ml) and 1 N hydrochloric acid (100 ml), and the solution was stirred for 5 hours under reflux. The reaction solution was concentrated, and the residue was washed with ethyl acetate and dried under reduced pressure to give 1-(2-naphthalenesulfonyl)piperazine hydrochloride (43.3 g).

reactant | 1-formyl-4-(2-naphthalenesulfonyl)piperazine | C(=O)N1CCN(CC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C15H16N2O3S
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(2-naphthalenesulfonyl)piperazine hydrochloride | 43.3 g | Cl.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCNCC1 | InChI=1S/C14H16N2O2S.ClH/c17-19(18,16-9-7-15-8-10-16)14-6-5-12-3-1-2-4-13(12)11-14;/h1-6,11,15H,7-10H2;1H
